US05189054
Preparation of 3-[(2-Hydroxyphenacyl)amino]-2-carboxy-6-chloroindole
Dissolve 3-[(2-acetoxyphenacyl)amino]-2-carbmethoxy-6-chloroindole (800 mg, 2.15 mmol) in tetrahydrofuran/water (20 mL, 1/1). Add lithium hydroxide monohydrate (932 mg, 8.5 mmol). Seal the flask and warm to 60° C. for 3 hours. Dilute with ethyl acetate/water, acidify and separate the organic phase. Dry, precipitate with hexane and filter the solid to give the title compound (358 mg, 50%); mp 198°-200° C.

reactant | 3-[(2-acetoxyphenacyl)amino]-2-carbmethoxy-6-chloroindole | 2.15 mmol, 800 mg | C(C)(=O)OC1=C(C(CNC2=C(NC3=CC(=CC=C23)Cl)C(=O)OC)=O)C=CC=C1 | C20H17ClN2O5
reactant | lithium hydroxide monohydrate | 8.5 mmol, 932 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran water | 20 mL | O1CCCC1.O
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 3-[(2-Hydroxyphenacyl)amino]-2-carboxy-6-chloroindole | 358 mg, 50% | OC1=C(C(CNC2=C(NC3=CC(=CC=C23)Cl)C(=O)O)=O)C=CC=C1 | C17H13ClN2O4
